US07452893B2
Step 1: trans-[4-(2-(2,6-Difluorophenyl)-3-phenyl-allyloxy)-cyclohexyl]-carbamic acid benzyl ester
A stirred mixture of 1.8 g of trans-[4-(2-bromo-3-phenyl-allyloxy)-cyclohexyl]-carbamic acid benzyl ester, 0.9 g of potassium 2,6-difluorophenyltrifluoroborate (G. A. Molander and B. Biolatto, Journal of Organic Chemistry, (2003), 68, 4302-4314), 1.8 mL of triethylamine, 0.30 g of PdCl2(dppf).CH2Cl2, 50 mL of ethanol was heated to reflux for 12 h. The mixture was cooled and partitioned between 10 mL of water and 50 mL of chloroform The chloroform extract was washed with 50 mL of saturated sodium carbonate, 50 mL of saturated brine, dried over magnesium sulfate and concentrated under reduced pressure. Chromatography over silica gel eluting with a gradient of 10%-25% ethyl acetate in hexane gave 1.1 g of product as a white crystalline solid: MS (m+1)=478.3.

reactant | trans-[4-(2-bromo-3-phenyl-allyloxy)-cyclohexyl]-carbamic acid benzyl ester | 1.8 g | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)OCC(=CC1=CC=CC=C1)Br)=O | C23H26BrNO3
reactant | potassium 2,6-difluorophenyltrifluoroborate | 0.9 g | FC1=C(C(=CC=C1)F)[B-](F)(F)F.[K+]
reactant | triethylamine | 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) | 0.30 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | trans-[4-(2-(2,6-Difluorophenyl)-3-phenyl-allyloxy)-cyclohexyl]-carbamic acid benzyl ester | 1.1 g | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)OCC(=CC1=CC=CC=C1)C1=C(C=CC=C1F)F)=O | C29H29F2NO3
